US04806685
Preparation of 1-[4-(2-dimethylamino-ethoxy)-phenyl]-2-phenyl-3,3,3-trifluoro-1-(4-hydroxyphenyl)-propene
2.06 g (4.56 mmoles) of 1-(4-benzyloxyphenyl)-1-[4-(2-dimethylamino-ethoxy)-phenyl]-2-phenyl-3,3,3-trifluoropropene are dissolved in 45 ml of acetic acid and hydrogenated in the presence of 0.5 g of a 10% palladium-on-carbon catalyst. The solution is evaporated and the radius is crystallized from ether. 0.77 g (39.5%) of the aimed compound is obtained; m.p.: 149°-155° C.

reactant | 1-(4-benzyloxyphenyl)-1-[4-(2-dimethylamino-ethoxy)-phenyl]-2-phenyl-3,3,3-trifluoropropene | 4.56 mmoles, 2.06 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(=C(C(F)(F)F)C1=CC=CC=C1)C1=CC=C(C=C1)OCCN(C)C | C32H30F3NO2
solvent | acetic acid | 45 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-carbon | [Pd] | Pd
product | 1-[4-(2-dimethylamino-ethoxy)-phenyl]-2-phenyl-3,3,3-trifluoro-1-(4-hydroxyphenyl)-propene | 0.77 g, 39.5% | CN(CCOC1=CC=C(C=C1)C(=C(C(F)(F)F)C1=CC=CC=C1)C1=CC=C(C=C1)O)C | C25H24F3NO2
